US08895744B2
To a solution of 3-chloro-6-(4-methoxyphenyl)-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indole (222 mg, 1.11 mmol, 1eq.) in CH2Cl2 at 0° C., BBr3 (4.46 ml, 1M in CH2Cl2 4.46 mmol) was added dropwise. After 3 h at room temperature, the reaction mixture is hydrolysed with H2O and extracted with AcOEt (3×50 ml), dried with MgSO4, then filtered. The solvents were removed under reduced pressure and the crude material was purified by flash chromatography (CH2Cl2 then AcOEt) to afford 4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenol (409 mg, 0.94 mmol, 85% yield. 1H NMR 1H ((CD3)2CO, 300 MHz), δ 8.67 (d, 1H, J=2.3 Hz), 8.45-8.51 (m, 4H), 8.16-8.20 (m, 2H), 7.93 (dd, 1H, J=2.1 Hz, 8.9 Hz), 7.54-7.68 (m, 5H), 6.98 (d, 2H, J=8.6 Hz).

reactant | 3-chloro-6-(4-methoxyphenyl)-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indole | 1.11 mmol, 222 mg, 1eq. | ClC1=CC2=C(N(C3=CC=C(C=C23)C2=CC=C(C=C2)OC)S(=O)(=O)C2=CC=CC=C2)N=C1 | C24H17ClN2O3S
reactant | BBr3 | 4.46 mmol, 1M, 4.46 ml | B(Br)(Br)Br | BBr3
reactant | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenol | 85% yield | ClC1=CC2=C(N(C3=CC=C(C=C23)C2=CC=C(C=C2)O)S(=O)(=O)C2=CC=CC=C2)N=C1 | C23H15ClN2O3S
